US05733912
24c. 7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine
3-Iodo-4-methylpyridine (330 mg, 3.10 mmol) was dissolved in Et2O and cooled to -95° C. A solution of t-BuLi (1.7M in pentane, 4.0 ml, 6.80 mmol) in pentane was added dropwise. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (960 mg, 4.60 mmol) was added, and the reaction mixture was allowed to warm to -10° C. with stirring for 2 hours. The cold bath was removed, 2N HCl was added, and the phases were separated. The aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 99:1) to afford the title compound as an oil (41 mg, 6%): 1H NMR (CDCl3, 300 MHz) δ1.54-1.69 (m, 2H), 1.77-1.89 (m, 2H), 1.93-2.11 (m, 4H), 2.41 (s, 3H), 2.69-2.77 (m, 2H), 3.08-3.15 (m, 2H), 7.02 (d, J=4.8 Hz, 1H), 8.32 (d, J=4.8 Hz, 1H), 9.06 (s, 1H); MS (CI/NH3) m/z: 203 (M+H)+.

reactant | 3-Iodo-4-methylpyridine | 3.10 mmol, 330 mg | IC=1C=NC=CC1C | C6H6IN
reactant | t-BuLi | 6.80 mmol, 1.7M, 4.0 ml | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 4.60 mmol, 960 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | Et2O | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 41 mg, 6% | CC1=C(C=NC=C1)C12CCCN2CCC1 | C13H18N2
